Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
gait unsteadiness
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
Mr. ___ is a ___ year old man wit ha past medical history of
renal-pancreatic transplant, HTN, hypothyroidism who presents
today with unsteady gait.

He says that last night before he went to bed, he had a fever. 
He
went to sleep. This morning, he woke up with a dull holocephalic
headache, which is very unusual for him (does not report a
history of headaches). He sat up in bed ok, but when he tried to
get up out of bed he felt like he was falling backwards. He
remained very unsteady, and had to hold on to walls to get to 
the
bathroom. He denies any room spinning, clumsiness, focal 
weakness
or numbness. 

He feels ok when lying in bed, but remains with headache, and
with unsteady gait whenever he gets up. Over the course in the
ED, he does describe some lightheadedness vs vertigo when
standing up from the stretcher and sometimes just when lying in
the stretcher. He also endorses a feeling of falling forward,
while lying forward in the stretcher.

He states that his gait was normal yesterday.

He says that his levothyroxine dose was recently increased to
225mg daily. He has had no other medication changes.

He was seen by neurology once in the past for tremor, thought to
be related to prograf, and sudden falls thought related to 
tremor
vs. cataplexy - this was back in ___. Flex-ex and MRI of the c
spine were recommended along with sleep evaluation, these were
never obtained. His gait was normal at that time and he has had
no neurologic evaluation since. Tremor has been stable since 
that
time and he denies any recent falls.

On neuro ROS, he denies loss of vision, blurred vision, 
diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.

On general review of systems, the pt denies recent weight loss 
or
gain. Denies cough, shortness of breath.  Denies chest pain or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
Denies rash.

 
Past Medical History:
s/p PAKT ___
s/p LRRT ___
h/o ESRD
h/o IDDM
hypothyroidism
HTN
retinopathy
s/p ___ arthroscopy
s/p RIH ___ with recurrence
 
Social History:
___
Family History:
Grandmother with stroke from afib. Another
grandparent with ___.
 
Physical Exam:
On admission:
Physical Exam:
Vitals: 96.7 50 193/97 18 100% RA 

Orthostatics:
laying 51 174/70 18 96% RA 
sitting 49 150/98 18 96% RA 
standing 50 163/78 18 96%  

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, can touch chin to chest
Pulmonary: Lungs CTA bilaterally
Cardiac: RRR
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. No paraphasic errors. Naming
intact to both high and low frequency objects.  Reads without
difficulty. Speech was not dysarthric. Able to follow both
midline and appendicular commands. Good knowledge of current
events. No apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. Fundoscopic
exam revealed no papilledema, exudates, or hemorrhages.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Small amplitude action
tremor, left>right. No asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___  5   5    5  5     5     5   5
*limited by wrist surgery

-Sensory: Decreased sensation to pinprick in a stocking
distribution in the bilateral lower extremities. Slightly 
reduced
proprioception and vibratory sensation in the great toes
bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Tremor as above. No dysdiadochokinesia noted. No
dysmetria on FNF or HKS bilaterally. Mirroring initially with
overshoot in the right arm, however on repeat testing this is 
not
present.

HIT exam negative.

-Gait: Mild truncal ataxia while sitting. Stands independently,
but retropulses, catches himself on the bed. Walks with
titubating gait, very unsteady and wide based.

On discharge: nonfocal exam, gait wide based and 2 step turn, 
refused to tandem, able to ___ in place, no truncal ataxia
 
Pertinent Results:
___ 10:00AM   WBC-6.2 RBC-5.18 HGB-16.6 HCT-51.0 MCV-99* 
MCH-32.0 MCHC-32.5 RDW-14.6 RDWSD-53.5*
___ 10:00AM   NEUTS-65.0 ___ MONOS-11.1 EOS-2.9 
BASOS-1.1* IM ___ AbsNeut-4.04 AbsLymp-1.19* AbsMono-0.69 
AbsEos-0.18 AbsBaso-0.07
___ 10:00AM   cTropnT-<0.01
___ 10:29AM   LACTATE-1.1
___ 03:45PM CEREBROSPINAL FLUID (CSF)  WBC-1 RBC-1* POLYS-0 
___ ___ 03:45PM CEREBROSPINAL FLUID (CSF)  PROTEIN-57* 
GLUCOSE-52
___ 05:00PM URINE  RBC-2 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1

MRI head: no acute stroke on prelim read
Echo: No ASD or PFO appreciated. Mild left ventricular 
hypertropy with normal biventricular cavity sizes and systolic 
function.  
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a past medical history of 
pancreatic and renal transplant presenting with gait ataxia in 
the setting of a subjective fever yesterday, and ongoing dull 
headache today. Exam notable for gait ataxia which per patient 
is new, and is out of proportion to sensory loss in the feet.

Initial concern was for meningitis, given subjective fever, new 
headache, and new neurologic symptoms in the setting of 
immunosuppression. LP is bland, however, so this is much less 
likely. Tacrolimus toxicity can cause neurologic symptoms such 
as ataxia, however with no recent dose change or change in his 
chronic tremor due to tacrolimus, this is also less likely. He 
carries multiple stroke risk factors, but MRI normal. Echo neg. 
Orthostatic hypotension is certainly possible.

Incidentally found TSH 48 and FT4 0.3. To follow up with 
outpatient primary care physician for synthroid titration 
(currently on 225mcg synthroid).

Transitional issues:
1. F/u tacrolimus level
2. F/u PCP for thyroid
3. F/u renal transplant clinic

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Diltiazem Extended-Release 120 mg PO DAILY 
4. Levothyroxine Sodium 225 mcg PO DAILY 
5. Mycophenolate Mofetil 500 mg PO BID 
6. Tacrolimus 1.5 mg PO Q12H 
7. Sertraline 50 mg PO DAILY 
8. TraZODone 25 mg PO QHS:PRN insomnia 
9. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
10. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
11. Ipratropium Bromide MDI 2 PUFF IH Q6H:PRN wheezing 
12. ipratropium bromide 0.06 % nasal DAILY 
13. Montelukast 10 mg PO DAILY 
14. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Diltiazem Extended-Release 120 mg PO DAILY 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
5. Levothyroxine Sodium 225 mcg PO DAILY 
6. Montelukast 10 mg PO DAILY 
7. Mycophenolate Mofetil 500 mg PO BID 
8. Omeprazole 20 mg PO DAILY 
9. Sertraline 50 mg PO DAILY 
10. Tacrolimus 1.5 mg PO Q12H 
11. ipratropium bromide 0.06 % nasal DAILY 
12. Ipratropium Bromide MDI 2 PUFF IH Q6H:PRN wheezing 
13. TraZODone 25 mg PO QHS:PRN insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gait instability

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for gait ataxia concerning for a stroke. Given 
the fact that you also had a fever, you had a lumbar puncture 
done. The lumbar puncture was normal, and your MRI thankfully 
did not show a stroke. The renal transplant team came to see you 
and did not make any changes to your tacrolimus. You will need 
to follow up with your PCP to manage your hypothyroidism.

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___